US07528143B2
5-Methyl-N2-[3-(4-methyl-piperazine-1-sulfonyl)-phenyl]-pyrimidine-2,4-diamine (Intermediate 35)
A mixture of 2-chloro-5-methyl-pyrimidin-4-ylamine (0.25 g, 1.74 mmol) and 3-(4-methyl-piperazine-1-sulfonyl)-phenylamine (0.50 g, 2.0 mmol) in acetic acid (4 mL) was sealed in a microwave reaction tube and irradiated with microwave at 130° C. for 15 min. After cooling to room temperature, the cap was removed and the mixture concentrated. The residue was taken in water (20 mL) and pH adjusted to ˜9 with 10% NaOH solution. The resulting solution was extracted with EtOAc (2×30 mL) and the organic layer separated. The combined organic layers were washed with brine, dried over anhydrous Na2SO4 and filtered. The filtrate was concentrated in vacuo and the crude product (˜0.42 g) used in the next step without purification. MS (ES+): m/z 363 (M+H)+.

reactant | 2-chloro-5-methyl-pyrimidin-4-ylamine | 1.74 mmol, 0.25 g | ClC1=NC=C(C(=N1)N)C | C5H6ClN3
reactant | 3-(4-methyl-piperazine-1-sulfonyl)-phenylamine | 2.0 mmol, 0.50 g | CN1CCN(CC1)S(=O)(=O)C=1C=C(C=CC1)N | C11H17N3O2S
solvent | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
product | 5-Methyl-N2-[3-(4-methyl-piperazine-1-sulfonyl)-phenyl]-pyrimidine-2,4-diamine | CC=1C(=NC(=NC1)NC1=CC(=CC=C1)S(=O)(=O)N1CCN(CC1)C)N | C16H22N6O2S
